* Nebula CTLE DC operating-point bench
.lib "@@SKY130_MODEL_LIBRARY@@" @@PROCESS_CORNER@@
.include "@@CTLE_BLOCK_FILE@@"

.param RLOAD=1k RDEG=1k CDEG=0.5p ITAIL_VAL=100u
.param WIN=10 LIN=0.15 WTAIL=20 LTAIL=0.5 RBIAS=11500
.param VDD_VAL=1.8 VIN_CM=1.2 CLOAD=20f
.temp @@TEMPERATURE_C@@

VDD vdd 0 {VDD_VAL}
VINP inp 0 {VIN_CM}
VINN inn 0 {VIN_CM}
CLOADP outp 0 {CLOAD}
CLOADN outn 0 {CLOAD}
XCTLE inp inn outp outn vdd 0 CTLE
+ RLOAD={RLOAD} RDEG={RDEG} CDEG={CDEG} ITAIL_VAL={ITAIL_VAL}
+ WIN={WIN} LIN={LIN} WTAIL={WTAIL} LTAIL={LTAIL} RBIAS={RBIAS}

.control
set noaskquit
op
let inp_dc_v = v(inp)
let inn_dc_v = v(inn)
let outp_dc_v = v(outp)
let outn_dc_v = v(outn)
let srcp_dc_v = v(xctle.srcp)
let srcn_dc_v = v(xctle.srcn)
let tail_dc_v = v(xctle.tail)
let vdd_current_a = i(VDD)
print inp_dc_v inn_dc_v outp_dc_v outn_dc_v
print srcp_dc_v srcn_dc_v tail_dc_v vdd_current_a
quit
.endc
.end
